US06600037B1
A mixture of tert-butyl N-{1-(4-bromophenyl)-1-methylethyl}carbamate (1.57 g, 5.0 mmol), bis(pinacolato)diboron (1.40 g, 5.5 mmol), [1,1′-bis(di-phenylphosphino)ferrocene]dichloropalladium(II) (123 mg, 0.015 mmol) and potassium acetate (1.47 g, 15.0 mmol) was dissolved in dry DMF (20 ml) under nitrogen and heated to 80° for 5 h. The reaction was then concentrated under reduced pressure, the resulting residue taken up in dichloromethane (80 ml) and washed with water (1×80 ml), then brine (1×80 ml), dried (MgSO4) and again concentrated. The residue was subjected to column chromatography (silica gel; 15% ethyl acetate-hexane) to give tert-butyl N-{1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methylethyl}carbamate (1.55 g) as a white solid m.p. 140°. δH (CDCl3) 7.77 (2H, d, J 8.3 Hz), 7.40 (2H, d, J 8.4 Hz), 1.63 (6H, s) and 1.34 (21H, s).

reactant | tert-butyl N-{1-(4-bromophenyl)-1-methylethyl}carbamate | 5.0 mmol, 1.57 g | BrC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C14H20BrNO2
reactant | bis(pinacolato)diboron | 5.5 mmol, 1.40 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15.0 mmol, 1.47 g | C(C)(=O)[O-].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert-butyl N-{1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methylethyl}carbamate | 1.55 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O)C | C20H32BNO4
